US05232945
B. 5-Bromo-2-(4-benzyloxybenzyl)benzofuran
5-Bromo-2-(4-benzyloxybenzoyl)benzofuran (9.0 g, 22 mmol), sodium cyanoborohydride (10.4 g, 0.17 mol), zinc iodide (10.5 g, 0.35 mol) and 1,2-dichloroethane (350 ml) were combined and heated to reflux for 6 hours. The mixture was cooled, quenched with saturated ammonium chloride (500 ml), acidified with concentrated HCl and stirred for 30 minutes. The layers were separated, the aqueous layer was extracted with dichloromethane (400 ml) and the combined organic layers were washed with water and brine, dried over magnesium sulfate and concentrated, leaving a white solid (8.5 g).

reactant | 5-Bromo-2-(4-benzyloxybenzoyl)benzofuran | 22 mmol, 9.0 g | BrC=1C=CC2=C(C=C(O2)C(C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C1 | C22H15BrO3
reactant | sodium cyanoborohydride | 0.17 mol, 10.4 g | C(#N)[BH3-].[Na+]
catalyst | zinc iodide | 0.35 mol, 10.5 g | [I-].[Zn+2].[I-]
solvent | 1,2-dichloroethane | 350 ml | ClCCCl | C2H4Cl2
product | 5-Bromo-2-(4-benzyloxybenzyl)benzofuran | 8.5 g | BrC=1C=CC2=C(C=C(O2)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1 | C22H17BrO2
